US07060827B2
6-Nitro-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one (1 g) was reduced under hydrogenolysis conditions using 10% Pd—C in methanol (50 mL) and 1N HCl solution (10 mL) at 50 psi for 2 h. The catalyst was filtered off and washed with methanol and 1N HCl solution. The filtrate was evaporated to give 6-amino-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one.

reactant | 6-Nitro-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | 1 g | [N+](=O)([O-])C=1C=CC=2OCC(NC2N1)=O | C7H5N3O4
solvent | methanol | 50 mL | CO | CH4O
solvent | HCl | 1N, 10 mL | Cl | ClH
catalyst | Pd—C | [Pd] | Pd
product | 6-amino-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | NC=1C=CC=2OCC(NC2N1)=O | C7H7N3O2
